Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
elevated blood pressures with a headache and visual changes on 
postpartum day 9.
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo Gravida 1 Para ___ s/p low 
transverse c-section ___ for non-reassuring fetal heart 
tracing after induction of labor for elevated BPs. She presented 
to the ED with headache and visual changes. She reported that 
she had intermittent elevated BPs at the end of her pregnancy, 
but never required any antihypertensive medications. She had no 
laboratory abnormalities. Her postop/postpartum course was 
benign. She noticed a headache starting approx 4 days prior to 
presentantion, with intermittent periods of more intense pain 
located in the occipital region with occasional pulsations. It 
was always responsive to extra-strength tylenol and motrin. She 
attributed headache to fatigue and recent surgery until today 
when she noticed floaters in her left visual field that lasted 
for approx 10 mins. She called her ob who asked her to come to 
the ED.

 
Past Medical History:
ObHx: LTCS x 1 as above, ___ ___
MedHx: Hiatal hernia
SurgHx: LTCS

 
Social History:
___
Family History:
NC
 
Physical Exam:
In ED:
BP  173/78 --> 10mg IV hydralazine --> 137/64
O2 sat 100% RA

Caucasian woman in NAD, breastfeeding on approach
RRR, nl S1/S2
CTAB
Abd soft, nondistended. Mild tenderness to palpation. Incision
clean, dry, intact with steri strips.
Ext no edema/tenderness

 
Pertinent Results:
___ 01:15PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:08PM   ALT(SGPT)-25 AST(SGOT)-23 LD(LDH)-267* 
CK(CPK)-63 ALK PHOS-104 TOT BILI-0.3
___ 12:08PM   WBC-6.6# RBC-3.72* HGB-11.7* HCT-34.1* MCV-92 
MCH-31.4 MCHC-34.3 RDW-12.9
 
Brief Hospital Course:
Upon arrival to the ED, Ms ___ vital signs were 
T 98.4  HR 64  BP 158/89  RR 14  O2 100%RA. She received a bolus 
of 4g of magnesium and 10mg of IV hydralazine. She then reported 
no visual changes and a very mild headache and denied RUQ pain. 
Abdominal/incisional pain well controlled with Tylenol and 
Motrin. No other associated symptoms. A head CT showed no 
intracranial process. Her U/A was negative for protein, mod 
blood, rare bacteria. Her pre-Eclampsia labs were negative 
except Uric Acid which was 5.9. 

She was readmitted to Labor and Delivery and continued on a 
magnesium drip for 12 hours given concern for Pre-eclampsia. Her 
blood pressures were well controlled in the 120s/70s without 
additional antihypertensives. Repeat Pre-eclampsia labs were 
negative and she was transferred to the postpartum floor after 
12 hours of Magnesium. She was monitored for an additional day 
on the postpartum floor to ensure that her blood pressures were 
well controlled and that she remained free of pre-eclampsia 
symtoms.

She was discharged home on hospital day 2 with no 
antihypertensive medications and a plan for close blood pressure 
monitoring and an outpatient.

 
Medications on Admission:
Tylenol, Motrin
 
Discharge Medications:
Tylenol, Motrin
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Postpartum Preeclampsia

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
Call for blood pressures >150 (top number) or >100 (bottom 
number)
Call for Headaches, visual changes or right sided upper 
abdominal pain
Call with any questions
 
Followup Instructions:
___